US08633183B2
A-7) 4-Ethyl-5-iodo-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP1 starting from 5.0 g (41 mmol) 4-ethyl-pyridin-2-ylamine and 9.2 g (41 mmol) NIS. Yield after precipitation from the reaction mixture and isolation of additional product from the mother liquid by chromatography using silica gel: 10.3 g (100%).

reactant | 4-ethyl-pyridin-2-ylamine | 41 mmol, 5.0 g | C(C)C1=CC(=NC=C1)N | C7H10N2
reactant | NIS | 41 mmol, 9.2 g | C1CC(=O)N(C1=O)I | C4H4INO2
product | 4-Ethyl-5-iodo-pyridin-2-ylamine | C(C)C1=CC(=NC=C1I)N | C7H9IN2
